US06599902B2
A solution of (2S,3S)-2-cyclopropylcarbamoyl-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (5.6 g) in 30% of TFA in DCM (50 mL) was stirred at rt for 2 hours. The reaction was concentrated to give 3.5 g of (2S,3S)-3-hydroxy-pyrrolidine-2-carboxylic acid cyclopropylamide as a TFA salt.

reactant | (2S,3S)-2-cyclopropylcarbamoyl-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.6 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(NC1CC1)=O | C13H22N2O4
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S)-3-hydroxy-pyrrolidine-2-carboxylic acid cyclopropylamide | 3.5 g | C1(CC1)NC(=O)[C@H]1NCC[C@@H]1O | C8H14N2O2
